data/rdb19/train.csv
rxn,smiles,ea
4685,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22][H:27])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[H:28])([H:11])[H:12])([H:8])([H:9])[H:10],36.91928573220503
3100,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20],25.36349338159198
3842,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],56.47740062745288
4257,[C:16]([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])([H:8])([H:9])[H:10],17.115254666336114
255,[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[O:12][C:13]([O:15][O:14])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5]>>[C:1]([O:2][C:6]([H:7])[H:9])([H:3])([H:4])[H:5].[C:8]1([H:10])([H:11])[O:12][C:13]([H:16])([H:17])[O:15][O:14]1,57.1946045946097
118,[C:12]([C:13](=[C:14]([H:21])[H:22])[C:15](=[O:16])[O:17][H:23])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13](=[C:14]([H:21])[H:22])[C:15](=[O:16])[O:17])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:23])([H:6])([H:7])[H:8],35.65260535443667
971,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:20]([C:19]([C:17]([O:16][C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])=[O:18])[H:26])([H:27])[H:28])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],11.372102177760098
5424,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4][c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:12][C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29],32.155540308041964
3387,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3][H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25],32.20367874100339
1327,[C:10]([C:11]([C:12]([H:13])[C:14](=[O:15])[O:16][H:22])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3][C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([H:13])[C:14](=[O:15])[O:16][H:22])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],29.90538082079729
4926,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:20]1([H:28])[C:19]([H:27])[C:18]([H:26])=[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]1[H:29])([H:10])[H:11])([H:7])([H:8])[H:9],18.72387294168584
4432,[C:13]([H:14])([H:15])[H:16].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5][C:13]([H:14])([H:15])[H:16])[O:6][H:12])([H:7])([H:8])[H:9],29.256649509072304
5024,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24].[C:1]([H:5])([H:6])([H:7])[H:25].[O:2][C:3](=[C:4]([H:9])[H:10])[H:8],69.3027035468258
